US07655806B2
1.0 g of anastrozole base was suspended in 10 ml of water and 2.5 ml of 1:1 hydrochloric acid was added. The resulted solution was filtered and the filter was washed with 5 ml of distilled water. The filtrate was poured on a Petri dish and allowed to evaporate on air for 3 days. Well developed crystals of anastrozole hydrochloride were formed with m.p. 107.7 C (capillary) 0.6-0.7 g of the so formed crystals were dissolved in minimal amount of water (about 2 ml) and 20 ml of water was slowly added under stirring. Crystalline product precipitated during adding the water. The mixture was stirred for 30 minutes and allowed to stand for 2 days. The crystals were filtered, washed by 10 ml of water and dried on air.

reactant | anastrozole | 1.0 g | CC(C)(C#N)C=1C=C(C=C(C1)C(C)(C)C#N)CN2C=NC=N2 | C17H19N5
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | anastrozole hydrochloride | CC(C)(C#N)C=1C=C(C=C(C1)C(C)(C)C#N)CN2C=NC=N2.Cl | InChI=1S/C17H19N5.ClH/c1-16(2,9-18)14-5-13(8-22-12-20-11-21-22)6-15(7-14)17(3,4)10-19;/h5-7,11-12H,8H2,1-4H3;1H
